US04624949
To a stirred suspension of benzyl-(2-aminophenyl)-sulfoxide (1.9 g; 0.008 mol) in 30 ml of 11% H2SO4 was added a solution of sodium nitrite (0.78 g; 0.011 mol) in 20 ml of water at about 0° C. After 1 hour at 0° C. to the yellow solution was quickly added a solution of cupric nitrate trihydrate (34.2 g; 0.140 mol) in 75 ml of water and cuprous oxide (1.33 g; 0.009 mol). The solution was allowed to warm to room temperature and stirred for further 5 hours. The solid was filtered and treated with hot ethyl acetate. The solution was dried over sodium sulfate concentrated and the residue was crystallized from ethyl acetate/pentane (1:4) to give 6H-dibenzo[b,d]thiopyran-5-oxide (1.25 g; yield 71%); m.p. 97°-100° C. By proceeding analogously the following compounds were obtained:

reactant | benzyl-(2-aminophenyl)-sulfoxide | 0.008 mol, 1.9 g | C(C1=CC=CC=C1)S(=O)C1=C(C=CC=C1)N | C13H13NOS
reactant | sodium nitrite | 0.011 mol, 0.78 g | N(=O)[O-].[Na+]
solvent | H2SO4 | 30 ml | OS(=O)(=O)O | H2O4S
solvent | water | 20 ml | O | H2O
solvent | water | 75 ml | O | H2O
product | 6H-dibenzo[b,d]thiopyran-5-oxide | 1.25 g, yield 71% | C1=CC=CC=2S(CC3=C(C21)C=CC=C3)=O | C13H10OS
